US09260441B2
Step A: Ethyl 1-(4-methyl-2-pyridyl)piperidine-4-carboxylate
2-Bromo-4-methylpyridine (860 mg, 5 mmol), ethyl piperidine-4-carboxylate (865 mg, 5.5 mmol) and DIPEA (958 μl, 5.5 mmol) were mixed in dipropyleneglycolmonomethylether (10 ml) and stirred at 150° C. overnight. Additional ethyl piperidine-4-carboxylate (865 mg, 5.5 mmol) was added and stirring was continued at 150° C. for 24 hours. The mixture was concentrated under reduced pressure and the residue was purified by column chromatography (silica, gradient from 0 to 30% ethyl acetate in DCM) to give 700 mg of a brown solid (2.8 mmol, 56%) MS (multi-mode) m/z=249.1 [M+1]+.

reactant | 2-Bromo-4-methylpyridine | 5 mmol, 860 mg | BrC1=NC=CC(=C1)C | C6H6BrN
reactant | ethyl piperidine-4-carboxylate | 5.5 mmol, 865 mg | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | DIPEA | 5.5 mmol, 958 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl piperidine-4-carboxylate | 5.5 mmol, 865 mg | N1CCC(CC1)C(=O)OCC | C8H15NO2
solvent | dipropyleneglycolmonomethylether | 10 ml | COCCCOCCCO | C7H16O3
product | Ethyl 1-(4-methyl-2-pyridyl)piperidine-4-carboxylate | 2.8 mmol, 700 mg, 56% | CC1=CC(=NC=C1)N1CCC(CC1)C(=O)OCC | C14H20N2O2
